US04093812
Heat at its boiling point a mixture of 10 g of 3-(5-nitro-2-furyl)-1-phenylpyrazole-4-carboxamide and 16.5 g of phosphorus oxychloride in 100 ml of 1,2-dichloroethane for 1 hour. Pour the resulting solution onto ice, and adjust the pH-value to 4 with saturated caustic soda solution. Separate the organic phase. Wash it with water and then evaporate it to dryness to obtain a 95% yield of 3-(5-nitro-2-furyl)-1-phenylpyrazole-4-carbonitrile [m.p. 190° to 192° C].

reactant | 3-(5-nitro-2-furyl)-1-phenylpyrazole-4-carboxamide | 10 g | [N+](=O)([O-])C1=CC=C(O1)C1=NN(C=C1C(=O)N)C1=CC=CC=C1 | C14H10N4O4
reactant | phosphorus oxychloride | 16.5 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | caustic soda | [OH-].[Na+]
solvent | 1,2-dichloroethane | 100 ml | ClCCCl | C2H4Cl2
product | 3-(5-nitro-2-furyl)-1-phenylpyrazole-4-carbonitrile | 95% yield | [N+](=O)([O-])C1=CC=C(O1)C1=NN(C=C1C#N)C1=CC=CC=C1 | C14H8N4O3
